US06048885
Methanol (10 ml), THF (10 ml) and hydrazine monohydrate (1.68 g, 0.03 mol) were added to methyl 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetate (3.27 g, 0.01 mol), and the mixture was stirred at room temperature for 3 hours. After completion of the reaction, water (200 ml) was added, and the mixture was extracted with dichloromethane. The dichloromethane layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetohydrazide (2.93 g, 89.6%) as colorless crystals.

reactant | Methanol | 10 ml | CO | CH4O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | hydrazine monohydrate | 0.03 mol, 1.68 g | O.NN
reactant | methyl 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetate | 0.01 mol, 3.27 g | CC1=C(OCC2=C(C=CC=C2)C(C(=O)OC)=NOC)C=C(C=C1)C | C19H21NO4
solvent | water | 200 ml | O | H2O
product | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetohydrazide | 2.93 g, 89.6% | CC1=C(OCC2=C(C=CC=C2)C(C(=O)NN)=NOC)C=C(C=C1)C | C18H21N3O3
